US07482469B2
A: 1-(3-trifluoromethyl-phenyl)-4,5-dihydro-1H-pyrazol-3-ylamine (hydrochloride salt)
Sodium ethoxide (3.9 g, 0.056 mmol) dissolved in ethanol (100 mL) and 3-(trifluoromethyl) phenylhydrazine (5 g, 0.028 mol) added followed by acrylonitrile (2.3 mL, 0.035 mol) and heated to reflux for 24 h. The solution was then evaporated to dryness in vacuo and water added. The solution was then extracted into dichloromethane and the organics combined, dried (Na2SO4), filtered and evaporated to dryness. The residue was then passed through a silica gel column eluting with dichloromethane:methanol. Product fractions collected and evaporated to dryness, dissolved in dichloromethane and 1M hydrogen chloride in diethyl ether added to form a white solid which was collected by filtration and dried (3 g, 40%). 1H NMR (400 MHz, CD3OD) δ ppm 3.23 (2H, br m), 4.04 (2H, br m), 7.32-7.37 (3H, br m), 7.56 (1H, br s). MS (ES) m/z: 230.0 [M+H].

reactant | Sodium ethoxide | 0.056 mmol, 3.9 g | [O-]CC.[Na+]
reactant | 3-(trifluoromethyl) phenylhydrazine | 0.028 mol, 5 g | FC(C=1C=C(C=CC1)NN)(F)F | C7H7F3N2
reactant | acrylonitrile | 0.035 mol, 2.3 mL | C(C=C)#N | C3H3N
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 1-(3-trifluoromethyl-phenyl)-4,5-dihydro-1H-pyrazol-3-ylamine | FC(C=1C=C(C=CC1)N1N=C(CC1)N)(F)F | C10H10F3N3
